US07342118B2
1-(1-Ethyl-propyl)-4-nitro-1H-imidazole
4-nitroimidazole was alkylated with 3-bromopentane to provide the title compound: 1H NMR (400 MHz, CDCl3) 0.84-0.90 (m, 6H), 1.71-1.82 (m, 2H), 1.86-1.96 (m, 2H), 3.79 (p, 1H, J=4.8 Hz), 7.41 (d, 1H, J=1.6 Hz), 7.73 (d, 1H, J=1.3 Hz); MS 184.2 m/z (M+1).

reactant | 4-nitroimidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | 3-bromopentane | BrC(CC)CC | C5H11Br
product | 1-(1-Ethyl-propyl)-4-nitro-1H-imidazole | C(C)C(CC)N1C=NC(=C1)[N+](=O)[O-] | C8H13N3O2
